US09227976B2
4-chloro-3,5-diphenyl-1-tetrahydropyran-4-yl-pyrazolo[3,4-c]pyridazine (Compound IIe)
Compound IIe was synthesized from 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine and tetrahydro-2H-pyran-4-ol following the general procedure for the Mitsunobu reaction.

reactant | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
reactant | tetrahydro-2H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
product | 4-chloro-3,5-diphenyl-1-tetrahydropyran-4-yl-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)C2CCOCC2 | C22H19ClN4O
